US07781613B2
4-Methoxy-3-hydroxymethyl-N-dimethylaminomethylenephenylsulfonamide
The mixture consisting of 1 g of 4-methoxy-3-hydroxymethylphenylsulfonamide, 0.66 g of dimethylformamide dimethyl acetal and 5 ml of dimethylformamide is stirred at 80° C. for one hour and then concentrated in vacuo. The residue is an oil which gradually solidifies and which is used without further purification for the following chlorination.

reactant | 4-methoxy-3-hydroxymethylphenylsulfonamide | 1 g | COC1=C(C=C(C=C1)S(=O)(=O)N)CO | C8H11NO4S
reactant | dimethylformamide dimethyl acetal | 0.66 g | COC(N(C)C)OC | C5H13NO2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-Methoxy-3-hydroxymethyl-N-dimethylaminomethylenephenylsulfonamide | COC1=C(C=C(C=C1)S(=O)(=O)N=CN(C)C)CO | C11H16N2O4S
